US06664291B2
2-(4-Fluoro-benzenesulfonyl)-benzene-1,4-diol
A solution of benzoquinone (23.5 g, 217 mmol) in 500 ml EtOH was added at RT over 30 min to a solution of 4-fluoro-benzenesulfinic acid (34.8 g, 217 mmol) in EtOH (300 mL) and water (500 mL). The resulting solution was stirred 2 h at RT, then diluted to 4l with warm water. The solution was cooled to 4° C. for 62 h and crystals formed. The crystalline solid was collected by suction filtration and washed with water (3×500 mIL and hexanes (2×500 mL) and dried to give the title compound of Step B (40.8 g). MS (APCl−) Calc.: 268.0, Found: 267.1 (M−1).

reactant | benzoquinone | 217 mmol, 23.5 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | 4-fluoro-benzenesulfinic acid | 217 mmol, 34.8 g | FC1=CC=C(C=C1)S(=O)O | C6H5FO2S
solvent | EtOH | 500 ml | CCO | C2H6O
solvent | EtOH | 300 mL | CCO | C2H6O
solvent | water | 500 mL | O | H2O
product | 2-(4-Fluoro-benzenesulfonyl)-benzene-1,4-diol | 40.8 g | FC1=CC=C(C=C1)S(=O)(=O)C1=C(C=CC(=C1)O)O | C12H9FO4S
